US07825257B1
Preparation of Iodopropyldimethylvinylsilane (X)
To a stirring solution of chloropropyldimethylvinylsilane (645 g) in ethyl methyl ketone (4.65 L), sodium iodide (1.215 Kg) was added under nitrogen and the mixture heated at 75° C. for 24 hr. The reaction mixture was cooled and added D.M. Water (1.62 L) and separated organic layer. The aqueous layer was re-extracted with ethyl methyl ketone (1.16 L) and the extract combined with the organic layer. The organic layer was dried on sodium sulfate and evaporated to dryness. Orange oil was purified by vacuum distillation to give colourless liquid the title product (540 g).

reactant | chloropropyldimethylvinylsilane | 645 g | ClCCC[SiH2]C=C(C)C | C7H15ClSi
reactant | sodium iodide | 1.215 Kg | [I-].[Na+]
solvent | ethyl methyl ketone | 4.65 L | CC(=O)CC | C4H8O
product | Iodopropyldimethylvinylsilane | 540 g, Yield: 53.6% | ICCC[SiH2]C=C(C)C | C7H15ISi
